US07030141B2
Step 3: 2-(3-Methyl-2′-methylsulfanyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
2-(4-Bromo-2-methyl-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (1.07 g, 2.7 mmol), 2-(methylthio)benzene boronic acid (0.56 g, 3.3 mmol), and tetrabutylammonium bromide (322 mg, 0.13 mmol) were combined in 20 mL toluene, added 2.8 mL of a 2M aqueous Na2CO3 solution followed by tetrakistriphenylphosphine palladium(0) (0.161 g, 0.13 mmol). Heated reaction at reflux 4 hours, cooled, concentrated, redissolved in EtOAc (250 mL), washed with water (3×200 mL), brine (200 mL), dried with MgSO4, filtered, and concentrated. Purified on a silica gel column eluted with 20% EtOAc in hexanes. Combined and concentrated pure fractions to yield title compound. (0.59 g, 50%) APCI (AP−): 425.1 (M−H)−.

reactant | 2-(4-Bromo-2-methyl-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.7 mmol, 1.07 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=C(C=C(C=C1)Br)C)=O | C17H23BrN2O3
reactant | 2-(methylthio)benzene boronic acid | 3.3 mmol, 0.56 g | CSC1=C(C=CC=C1)B(O)O | C7H9BO2S
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrabutylammonium bromide | 0.13 mmol, 322 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-Methyl-2′-methylsulfanyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=C(C=C(C=C1)C1=C(C=CC=C1)SC)C)=O | C24H30N2O3S
